US06599925B2
2-{[1-Chloro-6-(3-pentanoyl-1-benzofuran-2-yl)-2-naphthyl]oxy}acetic acid
Following the procedure described in Step 4 of Example 6, ethyl 2-{[1-chloro-6-(3-pentanoyl-1-benzofuran-2-yl)-2-naphthyl]oxy}acetate (0.477 g, 1.03 mmol) was hydrolyzed with potassium hydroxide (0.175 g, 3.12 mmol) in THF (10 mL) and water (10 mL). The title compound was obtained as a light yellow solid (0.249 g), mp 142-143° C. Mass spectrum (+ESI, [M+H]+) m/z 437. 1HNMR (500 MHz, DMSO-d6): δ13.0-13.5 (br, 1H), 8.5 (s, 1H), 8.25 (d, 1H, J=8.7 Hz), 8.1 (d, 1H, J=9.0 Hz), 8.05 (t, 2H, J=10.3 Hz), 7.75 (d,1H, J=8.0 Hz), 7.55 (d, 1H, J=9.2 Hz), 7.4-7.45 (m, 2H), 5.05 (s, 2H), 2.75 (t, 2H, J=7.2 Hz), 1.5-1.6 (m, 2H), 1.1-1.2 (m, 2H), and 0.75 ppm (t, 3H J=7.3 Hz). Elemental Analysis for C25H21ClO5: Calculated: C, 68.73; H, 4.84; N, 0.00. Found: C, 68.56; H, 4.60; N, 0.08.

reactant | ethyl 2-{[1-chloro-6-(3-pentanoyl-1-benzofuran-2-yl)-2-naphthyl]oxy}acetate | 1.03 mmol, 0.477 g | ClC1=C(C=CC2=CC(=CC=C12)C=1OC2=C(C1C(CCCC)=O)C=CC=C2)OCC(=O)OCC | C27H25ClO5
reactant | potassium hydroxide | 3.12 mmol, 0.175 g | [OH-].[K+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | water | 10 mL | O | H2O
product | 2-{[1-Chloro-6-(3-pentanoyl-1-benzofuran-2-yl)-2-naphthyl]oxy}acetic acid | ClC1=C(C=CC2=CC(=CC=C12)C=1OC2=C(C1C(CCCC)=O)C=CC=C2)OCC(=O)O | C25H21ClO5
